US08183385B2
A mixture of 4-amino-2,3-difluoro-5-nitrobenzoic acid methyl ester (150 g, 0.646 mol) in 14 M NH4OH (1 L, 14 mol, ˜7 vol) was stirred at room temperature. After 8 days HPLC analysis showed the reaction was almost complete. The solid product was filtered off, washed with water (2×200 mL), and then dried at 50° C. in a vacuum oven to provide 4-amino-2,3-difluoro-5-nitrobenzamide (118.7 g, 85% yield) as a yellow powder. HPLC 93.3a %. 1H NMR (400 MHz, DMSO-d6) δ7.65 (2H, br s, NH2), 7.83 (2H, br s, NH2), 8.30 (1H, apparent dd, J 1.5, 7.2, Ar—H). 19F NMR (376 MHz, DMSO-d6) δ −130, −154. 13C (100 MHz, DMSO-d6) δ 110.7 (C, d, J 12), 123.8 (CH, s), 128.1 (C, s), 139.5 (C, dd, J 14, 4), 139.6 (CF, dd, J 243, 17), 151.7 (CF, dd, J 257, 11), 163.4 (C, s). IR νmax/cm−1 3496, 3419, 3385, 3179, 1653, 1279, 1240. MS APCI (−) 216 (M−1) detected.

reactant | 4-amino-2,3-difluoro-5-nitrobenzoic acid methyl ester | 0.646 mol, 150 g | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])N)F)F)=O | C8H6F2N2O4
reactant | NH4OH | 14 mol, 14 M, 1 L | [NH4+].[OH-]
product | 4-amino-2,3-difluoro-5-nitrobenzamide | 118.7 g, 85% yield | NC1=C(C(=C(C(=O)N)C=C1[N+](=O)[O-])F)F | C7H5F2N3O3
